US05043339
(b) 2-((4-Amino-1,2-dihydro-2-oxo-1-pyrimidinyl)methoxy)-1,3-propanediyl bis(L-isoleucinate)
To a cool mixture of 2.54 g of 2-((4-amino-1,2-dihydro-2-oxo-1-pyrimidinyl)methoxy)-1,3-propanediyl bis(N-((benzyloxy)carbonyl)-L-isoleucinate) and 5.16 g of 10% palladium catalyst in acetic acid was slowly added 6.4 mL of 1,4-cyclohexadiene. The mixture was allowed to stir at room temperature for 3 h. The reaction mixture was filtered through a pad of Celite, the filtrate was then concentrated and dried in the lyophiliser for 3 d. The residue was scraped off, affording 2.079 g (82%, as the acetic acid salt) of a beige foam. The elemental analysis (showing 2M of acetic acid and 1M of water), UV, 1H, 13C-NMR spectra were consistent with the title structure.

reactant | 2-((4-amino-1,2-dihydro-2-oxo-1-pyrimidinyl)methoxy)-1,3-propanediyl bis(N-((benzyloxy)carbonyl)-L-isoleucinate) | 2.54 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)OCC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)[C@@H](C)CC)=O)OCN1C(N=C(C=C1)N)=O | C36H47N5O10
reactant | 1,4-cyclohexadiene | 6.4 mL | C1=CCC=CC1 | C6H8
reactant | water | 1M | O | H2O
catalyst | palladium | 5.16 g | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2M | C(C)(=O)O | C2H4O2
product | 2-((4-Amino-1,2-dihydro-2-oxo-1-pyrimidinyl)methoxy)-1,3-propanediyl bis(L-isoleucinate) | N[C@@H]([C@@H](C)CC)C(=O)OCC(COC([C@@H](N)[C@@H](C)CC)=O)OCN1C(N=C(C=C1)N)=O | C20H35N5O6
